US06175004B1
Preparation of 2′-O-methyl-2-fluoroadenosine (5)
A 2 L polyethylene bottle was equipped with a magnetic stirrer, thermometer, dry ice/acetone bath and a stream of argon gas. Anhydrous pyridine (200 mL) was added and the solution was cooled to −20° C. To this was added 70% hydrogen fluoride in pyridine (100 mL) while maintaining the temperature below 0° C. 2′-O-Methyl-2-aminoadenosine, (2, 30 g, 0.101 mol, R.I. Chemical, Orange, Calif., Reliable Bio-pharmaceuticals, St. Louis, Mo.) was dissolved in the solution. Tert-butylnitrite (42 mL, 0.35 mol) was added in one portion and the reaction was stirred at 5-13° C. until the reaction was complete as judged by TLC (2 h, Rf 0.15, starting material; Rf 0.28, product, ethyl acetate-methanol 9:1). Sodium bicarbonate (600 g) was suspended with manual stirring in water (1 L) in a 20 L bucket. The reaction solution was slowly poured (to allow for evolution of carbon dioxide) into the aqueous layer with vigorous stirring. The resulting solution (pH 7-8) was extracted with ethyl acetate (5×400 mL). The organic layers were combined and concentrated to an oil which was triturated with methanol (70 mL) to form a solid. The solid was collected by filtration and washed with ethyl acetate (3×50 mL) and dried (1 mm Hg, 25° C., 24 h) to 16.5 g of product as a cream colored microcrystalline solid, mp 239-241° C. The filtrate was concentrated under reduced pressure to about half volume and a second crop was collected as above to give as additional 1.0 g or 17.5 g total (58%). More product remained in the mother liquor. H-NMR (DMSO-d6) δ 3.36 (s, 3, 2′—O—CH3) 3.50-3.75 (m, 2, 5′ and 5″-H), 3.98 (m, 1, 4′-H), 4.32 (m, 2, 3′-H and 2′-H), 5.14 (t, 1, 5′-OH), 5.31 (d, 1, 3′-OH), 5.92 (d, 1, 1′-H), 7.92 (br s, 2, NH2) 8.40 (s, 1, 8-H).

reactant | polyethylene | 2 L | C(C[*:2])[*:1]
reactant | hydrogen fluoride | F | FH
reactant | 2′-O-Methyl-2-aminoadenosine | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(N)=NC(=NC12)N | C11H16N6O4
reactant | Tert-butylnitrite | 0.35 mol, 42 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | Sodium bicarbonate | 600 g | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 1 L | O | H2O
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 2′-O-methyl-2-fluoroadenosine | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(N)=NC(=NC12)F | C11H14FN5O4
